US06528525B1
2-(4-Isopropylphenoxy)-3-[4-[2-(2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]-2-methylpropionic acid (exemplification No. 34-40 compound)
In a similar manner to that described in Example 2, ethyl 2-(4-isopropylphenoxy)-3-[4-[2-[2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]-2-methylpropionate (341 mg), which is the product of Example 148, was reacted with aqueous sodium hydroxide solution (1N, 1.14 ml) and the reaction mixture was treated to give the title compound (144 mg) as colorless crystals.

reactant | ethyl 2-(4-isopropylphenoxy)-3-[4-[2-[2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]-2-methylpropionate | 341 mg | C(C)(C)C1=CC=C(OC(C(=O)OCC)(CC2=CC=C(C=C2)OCCNC(=O)C=2C=CC(=NC2)C2=CC=C(C=C2)OC)C)C=C1 | C36H40N2O6
reactant | sodium hydroxide | 1N, 1.14 ml | [OH-].[Na+]
product | 2-(4-Isopropylphenoxy)-3-[4-[2-(2-(4-methoxyphenyl)pyridine-5-carbonylamino]ethoxy]phenyl]-2-methylpropionic acid | 144 mg | C(C)(C)C1=CC=C(OC(C(=O)O)(CC2=CC=C(C=C2)OCCNC(=O)C=2C=CC(=NC2)C2=CC=C(C=C2)OC)C)C=C1 | C34H36N2O6
